US06498159B1
4-[(3-Chloro-4-methoxybenzyl)amino]-1-(4-hydroxypiperidino)-6-phthalazine Carbothiamide
3.7 ml diethyl dithiophosphate was added to a mixture of 2.0 g 4-[(3-chloro-4-methoxybenzyl)amino]-1-(hydroxypiperidino)-6-phthalazine carbonitrile, 1 ml water and 2 ml isopropanol, and the mixture was heated under reflux for 1 hr. After cooling, water was added to the reaction solution and the resulting crystals were collected by filtration. The filtrate was extracted with ethyl acetate and washed with brine. It was dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated, and the resulting crystalline residue was combined with the crystals collected above by filtration, whereby 1.5 g of the title compound was obtained.

reactant | diethyl dithiophosphate | 3.7 ml | P(=S)(SCC)(OCC)[O-]
reactant | 4-[(3-chloro-4-methoxybenzyl)amino]-1-(hydroxypiperidino)-6-phthalazine carbonitrile | 2.0 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2C(CCCC2)O)C=CC1OC | C22H22ClN5O2
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-[(3-Chloro-4-methoxybenzyl)amino]-1-(4-hydroxypiperidino)-6-phthalazine Carbothiamide | 1.5 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C(N)=S)N2CCC(CC2)O)C=CC1OC | C22H24ClN5O2S
